US04931581
Preparation of 2-benzylthio-3,5-diamino-benzoic acid methyl ester
17.7 g of iron turnings are heated to 66° C. in 80 ml of acetic acid (5%) with thorough stirring. A solution of 12.0 g (0.034 mol) of 2-benzylthio-3,5-dinitrobenzoic acid methyl ester in 20 ml of tetrahydrofuran is then slowly added dropwise. After cooling, the batch is neutralised with saturated sodium hydrogen carbonate solution and extracted three times with ethyl acetate. The extracts are washed with water, dried over magnesium sulfate, filtered and concentrated. Crystallisation from diethyl ether gives 8.1 g (82% of the theoretical yield) of product; m.p. 80°-82° C.

reactant | 2-benzylthio-3,5-dinitrobenzoic acid methyl ester | 0.034 mol, 12.0 g | COC(C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])SCC1=CC=CC=C1)=O | C15H12N2O6S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | iron | 17.7 g | [Fe] | Fe
product | 2-benzylthio-3,5-diamino-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)N)N)SCC1=CC=CC=C1)=O | C15H16N2O2S
